US07091353B2
Methyl-3-[(t-butoxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate
Triethylamine (3.89 g, 38 mmol) was added dropwise to a stirred suspension of methyl-3-aminomethyl-2-(methoxycarbonyl)benzoate hydrochloride (4.0 g, 15 mmol) in dichloromethane (100 ml). The mixture was cooled in an ice bath to 8° C. A solution of di-t-butyl dicarbonate (3.7 g, 16 mmol) in dichloromethane (20 ml) was added dropwise at 8° C. After the addition was complete, the cooled mixture was stirred for an additional 30 minutes, and then warmed to room temperature for 1 hour. The mixture was washed with water (2×40 ml), brine (40 ml) and dried. Solvent was removed in vacuo and the product was purified by chromatography (hexane/ethyl acetate 7 to 3) to afford 4.66 g (93%) of the product as an oil: 1H NMR (CDCl3) δ 7.87 (d, J=7.4 Hz, 1H), 7.62 (d, J=7.4 Hz, 1H), 7.46 (t, J=7.8 Hz, 1H), 5.16 (b, 1H), 4.30 (d, J=6.1 Hz, 2H), 3.93 (s, 3H), 3.89 (s, 3H), 1.42 (s, 9H); 13C NMR (CDCl3) δ 169.41, 166.18, 155.57, 137.09, 134.04, 133.32, 129.76, 128.95, 128.64, 79.52, 52.72, 52.50, 42.23.

reactant | Triethylamine | 38 mmol, 3.89 g | C(C)N(CC)CC | C6H15N
reactant | methyl-3-aminomethyl-2-(methoxycarbonyl)benzoate hydrochloride | 15 mmol, 4.0 g | Cl.COC(C1=C(C(=CC=C1)CN)C(=O)OC)=O
reactant | di-t-butyl dicarbonate | 16 mmol, 3.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl-3-[(t-butoxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate | 4.66 g, 93% | COC(C1=C(C(=CC=C1)CNC(=O)OC(C)(C)C)C(=O)OC)=O | C16H21NO6
